US04060528
To a stirred and hot solution of 7.35 parts of sodium cyanide in 50 parts of dimethyl sulfoxide is added dropwise a solution of 15.2 parts of α-bromo-2-chloro-m-tolyl 2-thienyl ketone in 25 parts of dimethyl sulfoxide at 60° C. Upon completion, stirring is continued for 2 hours at 60° C. The reaction mixture is poured onto water and the product is extracted three times with 240 parts of ether. The combined ether phases are washed three times with 100 parts of water, dried, filtered and evaporated. The residue is boiled four times in 80 parts of diisopropylether and the latter is each time decanted, yielding 2-[2-chloro-3-(2-thenoyl)phenyl]acetonitrile as a residue which solidifies on standing.

reactant | sodium cyanide | [C-]#N.[Na+]
reactant | α-bromo-2-chloro-m-tolyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C=1C(=C(C=CC1)CBr)Cl | C12H8BrClOS
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-[2-chloro-3-(2-thenoyl)phenyl]acetonitrile | ClC1=C(C=CC=C1C(C1=CC=CS1)=O)CC#N | C13H8ClNOS
